US04920119
1 g of 3-amino-2-phenyl-4-pyridinecarbonitrile was heated to reflux for 3.5 hours in 20 ml of water and 10 ml of dioxan in the presence of 4 g of Amberlite lRA-400-OH (basic form). The resin was removed by filtration and the filtrate was evaporated. The residue was chromatographed on silica gel using methanol/ethyl acetate (1:19) for the elution and the product was recrystallized from ethyl acetate/petroleum ether to yield 900 mg of 3-amino-2-phenyl-4-pyridinecarboxamide of melting point 163°-164° C.

reactant | 3-amino-2-phenyl-4-pyridinecarbonitrile | 1 g | NC=1C(=NC=CC1C#N)C1=CC=CC=C1 | C12H9N3
reactant | dioxan | 10 ml | O1CCOCC1 | C4H8O2
solvent | water | 20 ml | O | H2O
product | 3-amino-2-phenyl-4-pyridinecarboxamide | 900 mg | NC=1C(=NC=CC1C(=O)N)C1=CC=CC=C1 | C12H11N3O
